Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L tibia fibula fracture
 
Major Surgical or Invasive Procedure:
___ Left tibia IM Nail

 
History of Present Illness:
The patient is an ___ female patient
who sustained a closed tibia fracture during a basketball
game.  She now presents for surgical management.  The
compartments are soft before the procedure with no concern
for compartment syndrome.
 
Past Medical History:
none
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
NAD
AAOx3
Resp unlabored

LEFT LOWER EXTREMITY:
Splint and ACB c/d/i with well-padded dressing in place
Extremity without obvious deformity
No skin tenting, or lesions indicative of open fracture
___ FHL ___ TA PP Fire
SILT LFCN, PFCN, Obturator, Saphenous, Sural, DP, SP, Plantar
2+ DP, ___ pulses; foot warm, well-perfused
Compartments soft (thigh, leg, foot)
Minimal pain to passive stretch of toes
No noted knee effusion

 
Pertinent Results:
___ 10:05PM   GLUCOSE-106* UREA N-15 CREAT-1.0 SODIUM-138 
POTASSIUM-3.6 CHLORIDE-102 TOTAL CO2-23 ANION GAP-17
___ 10:05PM   WBC-7.9 RBC-4.40 HGB-13.1 HCT-37.0 MCV-84 
MCH-29.8 MCHC-35.4* RDW-13.0
___ 10:05PM   PLT COUNT-235
___ 10:05PM   ___ PTT-27.0 ___
 
Brief Hospital Course:
Mr./Ms.   – was admitted to the Orthopedic service on DATE for 
left/right hip/wrist/ankle fracture after being evaluated and 
treated with closed reduction in the emergency room.  He/She 
underwent open reduction internal fixation of the fracture 
without complication on DATE. Please see operative report for 
full details. He/She was extubated without difficulty and 
transferred to the recovery room in stable condition.  In the 
early post-operative course Mr./Ms. ___ well/developed...... and 
was transferred to the floor in stable condition/ICU for.....

On the night of surgery he/she did well/developed.....

On hospital day ___ He/She was transfused/ given intravenous 
fluid bolus for post-operative anemia/hypovolumenia.

He/She had adequate pain management and worked with physical 
therapy while in the hospital.  The remainder of his/her 
hospital course was uneventful and Mr./Ms. ___ is being 
discharged to home/services/rehab in stable condition.

 
Medications on Admission:
none
 
Discharge Medications:
1. enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) syringe 
Subcutaneous QPM (once a day (in the evening)) for 2 weeks: 40mg 
daily for 2 weeks.
Disp:*15 syringe* Refills:*0*
2. oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for Pain for 2 weeks.
Disp:*50 Tablet(s)* Refills:*0*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L tibia/fibula fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Wound Care:
- Keep Incision clean and dry.
- Keep pin sites clean and dry.
- You can get the wound wet or take a shower starting from 7 
days after surgery, but no baths or swimming for at least 4 
weeks.
- Dry sterile dresssing may be changed daily.  No dressing is 
needed if wound continues to be non-draining.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
Activity:
- Continue to be _ weight bearing on your left/right arm/leg
- You should not lift anything greater than 5 pounds.
- Elevate right/left arm/leg to reduce swelling and pain.
- Do not remove splint/brace.  Keep splint/brace dry.
Other Instructions
- Resume your regular diet.
- Avoid nicotine products to optimize healing.
- Resume your home medications. Take all medications as 
instructed.
- Continue taking the Lovenox to prevent blood clots.
- You have also been given Additional Medications to control 
your pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead.  You can either have them mailed 
to your home or pick them up at the clinic located on ___ 2. 
 We are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy.   In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.
- Narcotic pain medication may cause drowsiness.  Do not drink 
alcohol while taking narcotic medications.  Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications.  Taking more than recommended may cause serious 
breathing problems.
- If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.

 
Followup Instructions:
___